US09085576B2
Step 2: 5-Chloro-3-((trimethylsilyl)ethynyl)picolinonitrile
A pressure vessel was charged with TEA (7.65 mL, 55.2 mmol), ethynyltrimethylsilane (2.32 mL, 16.6 mmol), copper (I) iodide (0.263 g, 1.380 mmol), palladium (0) tetrakis(triphenylphosphine) (0.558 g, 0.483 mmol), 3-bromo-5-chloropicolinonitrile (3.0 g, 13.8 mmol), and DMF (50 ml). The vessel was flushed with argon, sealed, stirred at ambient temperature for 15 minutes, and then heated at 50° C. for 4 hours. The solution was diluted with water and extracted with EtOAc. The combined organic layers were concentrated, and the residue was purified by silica-gel chromatography, eluting 0-50% ethyl acetate in hexane, to afford the title compound (1.3 g, 5.5 mmol). MS m/z=235 (M+H)+.

reactant | ethynyltrimethylsilane | 16.6 mmol, 2.32 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | 3-bromo-5-chloropicolinonitrile | 13.8 mmol, 3.0 g | BrC=1C(=NC=C(C1)Cl)C#N | C6H2BrClN2
catalyst | copper (I) iodide | 1.380 mmol, 0.263 g | [Cu]I
catalyst | palladium (0) tetrakis(triphenylphosphine) | 0.483 mmol, 0.558 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-3-((trimethylsilyl)ethynyl)picolinonitrile | 5.5 mmol, 1.3 g | ClC=1C=C(C(=NC1)C#N)C#C[Si](C)(C)C | C11H11ClN2Si
